US05180742
D-Camphor-10-sulfonic acid (0.1 g) was added to a toluene solution (50 ml) of 2,3,5-trimethylhydroquinone (3.1 g, 0.02 mole) and ethyl 6-acetoxy-6-(2-thienyl)hexanoate (5.6 g, 0.02 mole), and the mixture was heated at 60° C. for 6.5 hours, with stirring. After cooling, ethanol (100 ml) and a 10% aqueous solution (20 ml) of ferric chloride were added to the reaction solution, followed by stirring for 10 minutes. The reaction product was extracted with isopropyl ether, and the organic layer was washed with water, dried (over magnesium sulfate) and concentrated under reduced pressure. The residue was chromatographed on a silica gel column, and elution was performed with isopropyl etherhexane (1:1) to give ethyl 6-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-6-(2-thienyl)hexanoate (5.6 g, 76%). Its typical physical properties and nuclear magnetic resonance spectrum data are shown in Table 1. By following the procedure of this Example, the Compound Nos. 2 to 8 were prepared.

reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2,3,5-trimethylhydroquinone | 0.02 mole, 3.1 g | CC1=C(O)C=C(C(=C1C)O)C | C9H12O2
reactant | ethyl 6-acetoxy-6-(2-thienyl)hexanoate | 0.02 mole, 5.6 g | C(C)(=O)OC(CCCCC(=O)OCC)C=1SC=CC1 | C14H20O4S
catalyst | D-Camphor-10-sulfonic acid | 0.1 g | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 6-(3,5,6-trimethyl-1,4-benzoquinon-2-yl)-6-(2-thienyl)hexanoate | 5.6 g, 76% | CC1=C(C(C(=C(C1=O)C)C)=O)C(CCCCC(=O)OCC)C=1SC=CC1 | C21H26O4S
